US07759379B2
4-(6-Amino-3,3-dimethyl-2,3-dihydro-indol-1-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester
A mixture of 240 mg 4-(3,3-dimethyl-6-nitro-2,3-dihydro-indol-1-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester, 20 mg of 10% palladium on carbon and 5 ml ethanol was stirred for 3 hours under hydrogen atmosphere. The mixture was filtered through a chem elut cartridge and the compound was eluted with ethanol. After concentration under reduced pressure the residue was directly subjected to the subsequent reaction without further purification.

reactant | 4-(3,3-dimethyl-6-nitro-2,3-dihydro-indol-1-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester | 240 mg | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1CC(C2=CC=C(C=C12)[N+](=O)[O-])(C)C | C21H31N3O4
catalyst | palladium on carbon | 20 mg | [Pd] | Pd
solvent | ethanol | 5 ml | C(C)O | C2H6O
product | 4-(6-Amino-3,3-dimethyl-2,3-dihydro-indol-1-ylmethyl)-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)CN1CC(C2=CC=C(C=C12)N)(C)C | C21H33N3O2
